US06949615B2
Production of 6-vinyl-3-oxatricyclo[4.3.1.14,8]undecane-2-thione
To a mixture of 6-vinyl-3-oxatricyclo[4.3.1.14,8]undecan-2-one (10 mmol) obtained by the procedure of Example 3 and toluene (50 ml) was added 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulfide [(p-MeO-C6H4P(═S)—S—)2)] (10 mmol), and the resulting mixture was stirred at 110° C. for 24 hours. The reaction mixture was concentrated, the concentrate was subjected to silica gel column chromatography and thereby yielded the title compound 6-vinyl-3-oxatricyclo[4.3.1.14,8]undecane-2-thione in a yield of 75%.

reactant | 6-vinyl-3-oxatricyclo[4.3.1.14,8]undecan-2-one | 10 mmol | C(=C)C12CC3OC(C(CC(C1)C3)C2)=O | C12H16O2
reactant | 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulfide | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 6-vinyl-3-oxatricyclo[4.3.1.14,8]undecane-2-thione | C(=C)C12CC3OC(C(CC(C1)C3)C2)=S | C12H16OS
